US09421205B2
(h) tert-Butyl 4-(4-((4-(2-(5-(2-ethoxy-2-oxoethyl)pyrimidin-4-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I112)
tert-Butyl 4-(4-((4-((5-(2-ethoxy-2-oxoethyl)pyrimidin-4-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I111) (0.108 g, 0.177 mmol) was dissolved in dry DMF (10 mL) under an atmosphere of nitrogen. Pd/C (10 wt. %; 0.040 g) in EtOAc (2 mL) was added to the solution and the atmosphere was changed to hydrogen gas (balloon). The reaction was sealed with balloon and stirred at room temperature for 22 hours. The catalyst was removed by filtration through Celite, which was washed with EtOAc (5×20 mL). The solvent was removed in vacuo to give a greyish semi-solid which was purified by silica gel chromatography (Isolera Biotage, 12 g Si Cartridge, 0-70% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I112) (0.096 g, 88% yield) as a pale yellow foam; 1H NMR (400 MHz, de-DMSO) δ 10.06 (s, 1H), 9.00 (s, 1H), 8.64 (s, 1H), 8.59 (s, 1H), 7.56 (d, J=8.4 Hz, 2H), 7.16 (d, J=8.6 Hz, 2H), 4.11-4.04 (m, 4H), 3.83 (s, 2H), 3.28-3.21 (m, 4H), 2.79 (brs, 2H), 2.68-2.58 (m, 1H), 1.74 (d, J=13.1 Hz, 2H), 1.52-1.38 (m, 11H), 1.14 (t, J=7.1 Hz, 3H). LCMS Method C: rt 6.65 min; m/z 615.1 [M+H]+.

reactant | tert-Butyl 4-(4-((4-((5-(2-ethoxy-2-oxoethyl)pyrimidin-4-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.177 mmol, 0.108 g | C(C)OC(CC=1C(=NC=NC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H33F3N6O4
reactant | hydrogen | [H][H] | H2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.040 g | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(2-(5-(2-ethoxy-2-oxoethyl)pyrimidin-4-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.096 g, 88% yield | C(C)OC(CC=1C(=NC=NC1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H37F3N6O4
